US04994460
Preparation of (1R,4R)-2,5-diazabicyclo[ 2.2.1]heptane dihydrobromide
(1R,4R)-5-phenylmethyl-2,5-diazabicyclo[2.2.1] heptane dihydrobromide. A mixture of (1R,4R)-2-(4-toluenesulfonyl)-5-phenylmethyl-2,5-diazabicyclo[2.2.1]heptane (38.95 g, 0.11 mole) in AcOH (500 mL) containing HBr (30% wt) was heated at 70° C. for 18 h. The mixture was allowed to cool and the precipitate that formed was filtered and washed with acetone. The filtrate was concentrated to one-third of the original volume and the resulting solid was combined with the first precipitate to give the title compound (36.55 g, 92%, m.p. 272°-275° C.).

reactant | (1R,4R)-5-phenylmethyl-2,5-diazabicyclo[2.2.1] heptane dihydrobromide | Br.Br.C1(=CC=CC=C1)CN1[C@H]2CN[C@@H](C1)C2
reactant | (1R,4R)-2-(4-toluenesulfonyl)-5-phenylmethyl-2,5-diazabicyclo[2.2.1]heptane | 0.11 mole, 38.95 g | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H]2CN([C@@H](C1)C2)CC2=CC=CC=C2)C | C19H22N2O2S
reactant | HBr | Br | BrH
solvent | AcOH | 500 mL | CC(=O)O | C2H4O2
product | (1R,4R)-2,5-diazabicyclo[ 2.2.1]heptane dihydrobromide | 36.55 g, 92% | Br.Br.[C@H]12NC[C@H](NC1)C2 | InChI=1S/C5H10N2.2BrH/c1-4-2-6-5(1)3-7-4;;/h4-7H,1-3H2;2*1H/t4-,5-;;/m1../s1
